US08648089B2
4-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)pyrimidin-2-amine
2.0 M ammonia isopropanol solution (2 mL) was added to 3-(4-methoxyphenyl)-1-(2-(methylsulfinyl)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole (90 mg) and then stirred at 100° C. for 3 hours in a sealed state. After cooling to room temperature, thus produced solid was filtered. After washing with isopropanol and then drying, the target compound (50 mg) was obtained as white solid.

reactant | ammonia isopropanol | 2.0 M, 2 mL | C(C)(C)O.N
reactant | 3-(4-methoxyphenyl)-1-(2-(methylsulfinyl)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 90 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC(=NC=C1)S(=O)C | C26H20N4O4S
product | 4-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)pyrimidin-2-amine | 50 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC(=NC=C1)N | C25H19N5O3
